US07906517B2
2-(Butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde (6.5 g), 3,5-bis-trifluoromethyl-benzylamine (7.52 g), acetic acid (2.04 ml) are dissolved in 1,2-dichloroethane (50 ml), and thereto is added triacetoxy sodium borohydride (10.1 g) at room temperature and the mixture is stirred for 2 hours. To the reaction solution are added 1N-aqueous sodium hydroxide solution and methylene chloride, and the mixture is separated, and the organic layer is washed with a saturated brine and dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give {2-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine (10.48 g). MS (m/z): 501 [M+H]+

reactant | 2-(Butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde | 6.5 g | C(CCC)N(C1=C(C=O)C=C(C=C1)C(F)(F)F)CC | C14H18F3NO
reactant | 3,5-bis-trifluoromethyl-benzylamine | 7.52 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | acetic acid | 2.04 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | {2-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine | 10.48 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C23H25F9N2
